US07569586B2
2-(2-Methoxy-4-nitrophenyl)-1,3-dioxolane
To a stirred solution of 2-methoxy-4-nitro-benzaldehyde (4.61 g, 25.4 mmol) in toluene (51 mL), was added p-toluene sulfonic acid (483 mg, 2.54 mmol), followed by ethylene glycol (2.83 mL, 50.8 mmol). After heating the reaction mixture at 50° C. for 12 h, additional p-toluene sulfonic acid (483 mg, 2.54 mmol) and ethylene glycol (2.83 mL, 50.8 mmol) were added. After an additional 12 h, the solvent was removed under reduced pressure, and the resulting residue was dissolved in dichloromethane (50 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (25 mL), dried over sodium sulfate, filtered and the solvent removed under reduced pressure to give the title compound as a yellow solid (5.46 g, 95%).

reactant | 2-methoxy-4-nitro-benzaldehyde | 25.4 mmol, 4.61 g | COC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | p-toluene sulfonic acid | 2.54 mmol, 483 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 50.8 mmol, 2.83 mL | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 2.54 mmol, 483 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 50.8 mmol, 2.83 mL | C(CO)O | C2H6O2
solvent | toluene | 51 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methoxy-4-nitrophenyl)-1,3-dioxolane | 5.46 g, 95% | COC1=C(C=CC(=C1)[N+](=O)[O-])C1OCCO1 | C10H11NO5
